US06204264B1
(1) N-(3-Morpholinopropyl)-2-nitroaniline
N-(3-Aminopropyl)morpholine (1.04 ml) was added to a solution containing 2-chloronitrobenzene (1.005 g) in pyridine (0.78 ml), and stirred for 14 hours at 130° C. Toluene was added to the reaction mixture and concentrated. The residue, with ethyl acetate added thereto, was extracted with 1N hydrochloric acid aqueous solution. The extract was alkalified with 1N sodium hydroxide aqueous solution and extracted with ethyl acetate. The extract was washed with saturated brine, dried over sodium sulfate anhydride, and concentrated, thereby yielding the entitled compound (1.217 g) as orange oil.

reactant | N-(3-Aminopropyl)morpholine | 1.04 ml | NCCCN1CCOCC1 | C7H16N2O
reactant | 2-chloronitrobenzene | 1.005 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 0.78 ml | N1=CC=CC=C1 | C5H5N
product | N-(3-Morpholinopropyl)-2-nitroaniline | 1.217 g | O1CCN(CC1)CCCNC1=C(C=CC=C1)[N+](=O)[O-] | C13H19N3O3
